US07977358B2
B] (3′S,5′S)-1-[1,3]Bipyrrolidinyl-5′-yl-methanol dihydrochloride
The title compound was prepared in analogy to 193B, by reduction of 3′S,5′S)-[1,3′]Bipyrrolidinyl-1′,5′-dicarboxylic acid 1′-tert-butyl ester 5′-methyl ester with lithium aluminium hydride and subsequent deprotection with 4M hydrochloric acid in dioxane. MS: 171.3 (MH+).

reactant | [1,3′]Bipyrrolidinyl-1′,5′-dicarboxylic acid 1′-tert-butyl ester 5′-methyl ester | COC(=O)C1CC(CN1C(=O)OC(C)(C)C)N1CCCC1 | C15H26N2O4
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3′S,5′S)-1-[1,3]Bipyrrolidinyl-5′-yl-methanol dihydrochloride | Cl.Cl.N1(CCCC1)[C@@H]1CN[C@@H](C1)CO | InChI=1S/C9H18N2O.2ClH/c12-7-8-5-9(6-10-8)11-3-1-2-4-11;;/h8-10,12H,1-7H2;2*1H/t8-,9-;;/m0../s1
